US04072696
2.0 G. of 1-amino-2-nitro-4-thiocyanatobenzene in 20 ml. acetone is treated with 3.0 g. methoxycarbonyl isothiocyanate at room temperature for 9 days. The solution is concentrated and the residue triturated with methanol and recrystallized from acetone, yielding 1-(3-methoxycarbonyl-2-thioureido)- 2-nitro-4-thiocyanatobenzene.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | methoxycarbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3-methoxycarbonyl-2-thioureido)- 2-nitro-4-thiocyanatobenzene | COC(=O)NC(NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-])=S | C10H8N4O4S2
